US06242443B1
7-Chloro-3-isopropylamino-2-methyl-2H-1,2,4-benzothiadiazine 1,1-dioxide
A mixture of crude 7-chloro-3-ethoxy-2-methyl-2H-1,2,4-benzothiadiazine 1,1-dioxide (0.45 g) and isopropylamine (4 ml) in an ethanolic sodium ethoxide solution, prepared by dissolving 0.4 g of sodium in 10 ml of ethanol, was refluxed for 3 hours and then neutralized with 4M acetic acid. The mixture was evaporated to dryness and partitioned between 25 ml of water and 25 ml of dichloromethane. The organic layer was dried over sodium sulfate and the solvent was evaporated in vacuo. The residue was purified by chromatography on a silica gel column with a 7:3 mixture of n-heptane and ethyl acetate as solvent to give the title compound;

reactant | 7-chloro-3-ethoxy-2-methyl-2H-1,2,4-benzothiadiazine 1,1-dioxide | 0.45 g | ClC1=CC2=C(N=C(N(S2(=O)=O)C)OCC)C=C1 | C10H11ClN2O3S
reactant | isopropylamine | 4 ml | C(C)(C)N | C3H9N
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.4 g | [Na] | Na
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | acetic acid | 4M | C(C)(=O)O | C2H4O2
product | 7-Chloro-3-isopropylamino-2-methyl-2H-1,2,4-benzothiadiazine 1,1-dioxide | ClC1=CC2=C(N=C(N(S2(=O)=O)C)NC(C)C)C=C1 | C11H14ClN3O2S
